US08138185B2
5-thiocyanato-thiazol-2-ylamine (15.7 g) was dissolved in degassed methanol and sodium borohydride (4.5 g) in MeOH was added in one portion. The reaction was stirred for 30 min and 3-bromo-2,2-dimethyl-propionic acid (27 g) (prepared in the same manner as described by Greene at al, J Am Chem Soc 1955, 77, 3016) and diisopropylethylamine (17 mL) was added and the reaction stirred overnight at room temperature. The reaction was diluted with water, partially concentrated in vacuo and 5% citric acid was added until pH 4. The brown precipitate was filtered, washed with water and acetonitrile, and dried over night at room temperature to give 3-(2-amino-thiazol-5-ylsulfanyl)-2,2-dimethyl-propionic acid as light brown crystals.

reactant | 5-thiocyanato-thiazol-2-ylamine | 15.7 g | S(C#N)C1=CN=C(S1)N | C4H3N3S2
reactant | sodium borohydride | 4.5 g | [BH4-].[Na+]
reactant | 3-bromo-2,2-dimethyl-propionic acid | 27 g | BrCC(C(=O)O)(C)C | C5H9BrO2
reactant | diisopropylethylamine | 17 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(2-amino-thiazol-5-ylsulfanyl)-2,2-dimethyl-propionic acid | NC=1SC(=CN1)SCC(C(=O)O)(C)C | C8H12N2O2S2
